US06441017B1
Step F: 4-(5-{[1-(2-Bromo-5-methanesulfonyloxybenzyl)-2-oxopyrrolidin-3-ylamino]methyl}imidazol-1-ylmethyl)-2-fluorobenzonitrile
3-Amino-1-(2-bromo-5-methanesulfonyloxybenzyl)-2-oxopyrrolidine, as described above in Step E, (640 mg, 1.12 mmol), 1-(4-cyano-3-fluorobenzyl)-5-imidazolecarboxaldehyde, as described above in Example 1, Step G, (333 mg, 1.45 mmol) were stirred in MeOH (8 mL) and the solution was acidified to pH≈5 to 6, as judged by wetted pH indicator paper, with acetic acid. Stirring was continued for 30 min, then NaCNBH3 (118 mg, 1.88 mmol) was added. Stirring was continued for 18 hours, then the reaction was quenched with saturated aqueous NaHCO3 (2 mL) and most of the MeOH was removed under reduced pressure. The residual solution was partitioned between saturated aqueous NaHCO3 (10 mL) and EtOAc (20 mL). The aqueous layer was extracted further with EtOAc (2×20 mL). The combined organic extracts were washed with brine, dried over Na2SO4, filtered, and concentrated in vacuo. The crude product was purified by flash column chromatography on silica, eluting with a gradient of CH2Cl2—1% to 5% MeOH, to yield the desired product.

reactant | 3-Amino-1-(2-bromo-5-methanesulfonyloxybenzyl)-2-oxopyrrolidine | NC1C(N(CC1)CC1=C(C=CC(=C1)OS(=O)(=O)C)Br)=O | C12H15BrN2O4S
reactant | 1-(4-cyano-3-fluorobenzyl)-5-imidazolecarboxaldehyde | 1.12 mmol, 640 mg | C(#N)C1=C(C=C(CN2C=NC=C2C=O)C=C1)F | C12H8FN3O
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | NaCNBH3 | 1.88 mmol, 118 mg | [BH3-]C#N.[Na+]
solvent | MeOH | 8 mL | CO | CH4O
product | 4-(5-{[1-(2-Bromo-5-methanesulfonyloxybenzyl)-2-oxopyrrolidin-3-ylamino]methyl}imidazol-1-ylmethyl)-2-fluorobenzonitrile | BrC1=C(CN2C(C(CC2)NCC2=CN=CN2CC2=CC(=C(C#N)C=C2)F)=O)C=C(C=C1)OS(=O)(=O)C | C24H23BrFN5O4S
